US07709645B2
To a solution of 2-tert-butoxycarbonylamino-3-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-propionic acid (100 mg, 0.16 mmol), dimethylamine (2 N solution in THF, 0.16 mL, 0.32 mmol), diisopropylethylamine (24 mg, 0.19 mmol) in DMF (1 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′,N′-tetramethyluronium hexafluorophosphate (73 mg, 0.19 mmol). The resulting solution was stirred at room temperature for 1 hour. Methanol (1 mL) and potassium hydroxide (50% w/v in water, 0.2 mL) were added and the resulting mixture was stirred for 30 minutes. The mixture was concentrated under reduced pressure. To the residue was added trifluoroacetic acid (1 mL) and the resulting mixture was sonicated until the residue is completely dissolved. The solution was concentrated and the residue purified by mass-triggered reverse-phase HPLC to afford 2-amino-3-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-propionamide as a pale yellow solid (23 mg, 35%). MS: m/z 415 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 2.77 (s, 3H), 2.82 (s, 3H), 2.77 (dd, 1H), 2.89 (dd, 1H), 3.84 (s, 3H), 7.05 (t, 1H), 7.14 (d, 1H), 7.19 (d, 1H), 7.30 (dt, 1H), 7.38 (t, 1H), 7.53 (s, 1H), 7.56 (d, 1H), 7.585 (dd, 1H), 7.73 (d, 1H), 8.15 (d, 1H), 8.53 (d, 1H), 11.87 (s, 1H).

reactant | 2-tert-butoxycarbonylamino-3-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-propionic acid | 0.16 mmol, 100 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC(=CC=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C35H35N3O7S
reactant | dimethylamine | 0.32 mmol, 2 N, 0.16 mL | CNC | C2H7N
reactant | diisopropylethylamine | 0.19 mmol, 24 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium hydroxide | 0.2 mL | [OH-].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Methanol | 1 mL | CO | CH4O
product | 2-amino-3-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-propionamide | 23 mg, 35% | NC(C(=O)N(C)C)CC1=CC(=CC=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C25H26N4O2
